US08629137B2
4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-4-(2-oxo-2,3-dihydro-imidazo[4,5-b]pyridin-1-yl)-3,4,5,6-tetrahydro-2H,1′H-[1,2′]bipyridinyl-6′-one
20 mg (0.034 mmol) 1-[6′-benzyloxy-4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]-1,3-dihydro-imidazo[4,5-b]pyridin-2-one in 0.10 g (0.87 mmol) pyridine hydrochloride were kept in a melt for 4 min. After cooling the mixture was purified by preparative HPLC-MS. The fractions containing the product were combined and freeze-dried.

reactant | 1-[6′-benzyloxy-4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]-1,3-dihydro-imidazo[4,5-b]pyridin-2-one | 0.034 mmol, 20 mg | C(C1=CC=CC=C1)OC1=CC(=CC(=N1)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O)C(=O)C2=CC1=C(N(C(O1)=O)C)C(=C2)C | C33H30N6O5
reactant | pyridine hydrochloride | 0.87 mmol, 0.10 g | Cl.N1=CC=CC=C1
product | 4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-4-(2-oxo-2,3-dihydro-imidazo[4,5-b]pyridin-1-yl)-3,4,5,6-tetrahydro-2H,1′H-[1,2′]bipyridinyl-6′-one | CN1C(OC2=C1C(=CC(=C2)C(=O)C=2C=C(NC(C2)=O)N2CCC(CC2)N2C(NC1=NC=CC=C12)=O)C)=O | C26H24N6O5
